US06083908
To a solution of tert-butyl carbazate (1.0 g, 7.6 mmol) and pyridine (3.1 ml) in methylene chloride (5 ml) was slowly added acetic acid anhydride (1.5 ml) and the mixture was stirred overnight. The mixture was added to methylene chloride (50 ml) and washed with water (2×10 ml) and brine (10 ml) and dried (MgSO4), filtered and concentrated in vacuo to give 0.95 g of N'-acetylhydrazinecarboxylic acid tert-butyl ester as a yellow oil.

reactant | tert-butyl carbazate | 7.6 mmol, 1.0 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | pyridine | 3.1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic acid anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N'-acetylhydrazinecarboxylic acid tert-butyl ester | 0.95 g | C(C)(C)(C)OC(=O)NNC(C)=O | C7H14N2O3
